US09283555B2
N1-(2-tert-butylphenyl)-4-methylbenzamidine (Amidine VI)
Procedure as described for Amidine I using the following amounts: 7.80 mL of 2-t-butylaniline (50.0 mmol); 25.0 mL of 2.0 M butyllithium (50.0 mmol), 5.86 g of 4-methylbenzonitrile (50.0 mmol). After refluxing overnight, the solution was dark brown. Addition of water yielded an orange solution with suspended solid. Solution was filtered and taken to dryness. The residue was treated with 75 mL of pentane, stirred overnight, and filtered yielding 11.14 g (84%) of off-white material. 1H NMR (400 MHz, CDCl3): 7.82 (d, 2H), 7.41 (d, 1H), 7.27 (d, 2H), 7.17 (t, 1H), 7.00 (t, 1H), 6.82 (d, 1 H), 4.75 (s, 2H), 2.42 (s, 3H), 1.40 (s, 9H).

reactant | 2-t-butylaniline | 50.0 mmol, 7.80 mL | C(C)(C)(C)C1=C(N)C=CC=C1 | C10H15N
reactant | butyllithium | 50.0 mmol, 2.0 M, 25.0 mL | C(CCC)[Li]
reactant | 4-methylbenzonitrile | 50.0 mmol, 5.86 g | CC1=CC=C(C#N)C=C1 | C8H7N
solvent | water | O | H2O
product | N1-(2-tert-butylphenyl)-4-methylbenzamidine | 11.14 g, 84% | C(C)(C)(C)C1=C(C=CC=C1)NC(C1=CC=C(C=C1)C)=N | C18H22N2
